US06894062B1
Enantiomeric (Both Enantiomers) and Racemic 3-Ethyl-8-Piperidin-3-yl-Quinoline
To a well-stirred mixture consisting of 2-bromo-aniline (5.4 g, 31.4 mmol), sodium 3-nitrobenzene sulfonate (4.25 g, 18.9 mmol), concentrated sulfuric acid (8.5 g, 177 mmol), and water (3.20 ml) heated to 100° C., 2-ethyl acrolein (5.0 ml, 51.06 mmol) was added. After maintaining the reaction temperature at 100° C. for 1 hour, the temperature was increased to 110° C. An additional portion of 2-ethyl acrolein (1.0 ml, 10.2 mmol) was added, and the reaction was stirred at 110° C. for 1 hour. The reaction temperature was then elevated to 120° C. prior to addition of another 1.0 ml (10.2 mmol) portion of 2-ethyl acrolein. After heating the reaction at 120 for 1 hour, the temperature was elevated to 130 prior to addition of 1.0 ml (10.2 mmol) of 2-ethyl acrolein. Finally, the reaction temperature was raised to 140° C. and maintained at that temperature for 2 hours following addition of a final portion (1.3 ml, 13.3 mmol) of 2-ethyl acrolein. The cooled reaction was quenched with ice (60 g), and the pH of the resulting mixture was adjusted to 14 by addition of 6 N aqueous sodium hydroxide. The reaction mixture was then extracted with three 100 ml portions of methylene chloride. The combined organic extracts were dried (anhydrous sodium sulfate) and concentrated in vacuo yielding an amber oil. Flash chromatography of the entire sample (silica gel, 47-61 micron mesh; elution with methylene chloride) afforded the title compound (3.70 g, 50% yield) as an amber oil.

reactant | 2-bromo-aniline | 31.4 mmol, 5.4 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | sodium 3-nitrobenzene sulfonate | 18.9 mmol, 4.25 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sulfuric acid | 177 mmol, 8.5 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-ethyl acrolein | 51.06 mmol, 5.0 ml | C(C)C(C=O)=C | C5H8O
reactant | 2-ethyl acrolein | 10.2 mmol, 1.0 ml | C(C)C(C=O)=C | C5H8O
reactant | 2-ethyl acrolein | 10.2 mmol, 1.0 ml | C(C)C(C=O)=C | C5H8O
reactant | 2-ethyl acrolein | 13.3 mmol, 1.3 ml | C(C)C(C=O)=C | C5H8O
solvent | water | 3.20 ml | O | H2O
product | Racemic 3-Ethyl-8-Piperidin-3-yl-Quinoline | 3.70 g, 50% yield | C(C)C=1C=NC2=C(C=CC=C2C1)C1CNCCC1 | C16H20N2
